US04094988
By following substantially the procedure of Example 1, Step D, except using dioxane as solvent, 2-phenyl-5,6-dihydro-1,4-dithiin (14.0 g.) yields 2-phenyl-5,6-dihydro-1,4-dithiin oxide as a mixture of the 1- and 4-isomers (15.1 g.).

reactant | 2-phenyl-5,6-dihydro-1,4-dithiin oxide | C1(=CC=CC=C1)C=1S(CCSC1)=O | C10H10OS2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-phenyl-5,6-dihydro-1,4-dithiin | 14.0 g | C1(=CC=CC=C1)C=1SCCSC1 | C10H10S2
